US06756378B2
A solution of methyl 4-[1-[4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetamido]-2-pyrrolidinylmethoxy]-3-nitrobenzoate (1.52 g, 2.27 mmol) in MeOH (20 mL) and THF (5 mL) was hydrogenated over 5% Pd-C (wet, 52.2%; 1.21 g) under hydrogen atmosphere (4 kg/cm) at room temperature After being stirred for 17 hr, the catalyst was filtered off and the filtrate was concentrated to dryness. Chromatography of the residue with EtOAc as eluent gave methyl 3-amino-4-[1-[4-[N′-(2-hydroxyphenyl)ureido]-3-methoxyphenylacetamido]-2-pyrrolidinylmethoxy]benzoate (1.12 g, 90%) as a brownish amorphous solid 1H-NMR (CDCl3) δ1.97-2.10 (m, 4H), 3.44 (s, 3H), 3.52-3.63 (m, 2H), 3.85 (s, 3H), 4.10-4.18 (m, 2H), 4.53 (m, 1H), 6.65-6.67 (m, 4H), 6.93-7.02 (m, 3H), 7.33 (d, J=2.2 Hz, 1H), 7.36 (dd, J=8.3, 2.2 Hz, 1H), 7.60 (s, 1H), 7.69 (d, J=8.3 Hz, 1H), 8.08 (s, 1H), 9.47 (broad s, 1H); FAB-MS m/z 549 (M++1).

reactant | methyl 4-[1-[4-[N′-(2-benzyloxyphenyl)ureido]-3-methoxyphenylacetamido]-2-pyrrolidinylmethoxy]-3-nitrobenzoate | 2.27 mmol, 1.52 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)NN1C(CCC1)COC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])OC)=O | C36H37N5O9
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd-C | 1.21 g | [Pd] | Pd
product | methyl 3-amino-4-[1-[4-[N′-(2-hydroxyphenyl)ureido]-3-methoxyphenylacetamido]-2-pyrrolidinylmethoxy]benzoate | 1.12 g, 90% | NC=1C=C(C(=O)OC)C=CC1OCC1N(CCC1)NC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)O)OC)=O | C29H33N5O7
